US05338760
The procedure is as in Example 3, but starting with methyl (RS)-4-[3-(3-methylphenyl)ureido]-N-(tert-butoxycarbonylmethyl)-N-phenylglutaramate (4.7 g) and normal sodium hydroxide (9.7 cc). The product obtained is purified by chromatography on silica (0.063-0.200 mm) (60 g) contained in a column 2.4 cm in diameter [eluent: methylene chloride/methanol (99: 1 by volume) (1000 cc), then methylene chloride/methanol (97:3 by volume)], collecting 25-cc fractions. Fractions 42 to 105 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 60° C. After crystallisation in diethyl ether, (RS)-4-[3-(3-methylphenyl) ureido]-N-(tertbutoxycarbonylmethyl)-N-phenylglutaramic acid (1.45 g), m.p. 191° C., is obtained.

reactant | methyl (RS)-4-[3-(3-methylphenyl)ureido]-N-(tert-butoxycarbonylmethyl)-N-phenylglutaramate | 4.7 g | CC=1C=C(C=CC1)NC(NC(CCC(=O)OC)C(=O)N(C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C26H33N3O6
reactant | sodium hydroxide | 9.7 cc | [OH-].[Na+]
product | (RS)-4-[3-(3-methylphenyl) ureido]-N-(tertbutoxycarbonylmethyl)-N-phenylglutaramic acid | 1.45 g | CC=1C=C(C=CC1)NC(NC(CCC(=O)O)C(=O)N(C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C25H31N3O6
